US08420817B2
F.1 Methyl 4-amino-2-phenylbutyrate hydrochloride
A mixture of 1 g (4.64 mmol) of 4-amino-2-phenylbutyric acid hydrochloride and 0.67 ml (5.1 mmol) of trimethylsilyl chloride in 50 ml of methanol is heated at reflux for 2 hours. The mixture is subsequently stirred at 20° C. for 12 hours and then concentrated under reduced pressure, triturated in 50 ml of ethyl ether and then filtered. This gives 0.9 g of the expected product in the form of a white solid.

reactant | 4-amino-2-phenylbutyric acid hydrochloride | 4.64 mmol, 1 g | Cl.NCCC(C(=O)O)C1=CC=CC=C1
reactant | trimethylsilyl chloride | 5.1 mmol, 0.67 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | methanol | 50 ml | CO | CH4O
product | Methyl 4-amino-2-phenylbutyrate hydrochloride | Cl.NCCC(C(=O)OC)C1=CC=CC=C1 | InChI=1S/C11H15NO2.ClH/c1-14-11(13)10(7-8-12)9-5-3-2-4-6-9;/h2-6,10H,7-8,12H2,1H3;1H
